US05677305
First, 1.065 g of 2-nitro-4-fluoro-5-(4-oxo-4H-pyridin-1-yl)-aniline was dissolved in 45 ml of dimethylformaldehyde by heating and reduced over 195 mg of 10% paradium-carbon catalyst under atmospheric pressure. After the reaction, the reaction mixture was filtered through celite to remove the catalyst, and the mother liquor thus obtained was concentrated to dryness. The residue thus obtained was subjected to column chromatography using 30 g of silica gel, and fractions eluted with a methylene chloride-methanol (20:1) solution were collected. The collected fractions were combined and evaporated. The residue was recrystallized with ethanol to give 802 mg of 4-fluoro-5-(4-oxo-4H-pyridin-1-yl)-1,2-phenylenediamine.

reactant | 2-nitro-4-fluoro-5-(4-oxo-4H-pyridin-1-yl)-aniline | 1.065 g | [N+](=O)([O-])C1=C(N)C=C(C(=C1)F)N1C=CC(C=C1)=O | C11H8FN3O3
solvent | dimethylformaldehyde | 45 ml | CC(=O)C | C3H6O
product | 4-fluoro-5-(4-oxo-4H-pyridin-1-yl)-1,2-phenylenediamine | 802 mg | FC1=CC(=C(C=C1N1C=CC(C=C1)=O)N)N | C11H10FN3O
